US06897310B2
A) 4-Butylamino-5-nitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester
4,5-Dinitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester (500 mg, 1.43 mmol) and 1-butylamine (1.42 mL, 14.3 mmol) were combined in THF (5 mL) and stirred 4 hours. The mixture was diluted with EtOAc (50 mL) and washed with H2O (3×30 mL) then dried (Na2SO4), filtered and concentrated to an oil. This oil was passed through a Silica gel filter column to remove baseline impurities eluting with 30% EtOAc/hexanes (510 mg, 1.41 mmol, 99%).

reactant | 4,5-Dinitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester | 1.43 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CC2C=3C=C(C(=CC3C(C1)C2)[N+](=O)[O-])[N+](=O)[O-] | C16H19N3O6
reactant | 1-butylamine | 14.3 mmol, 1.42 mL | C(CCC)N | C4H11N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 4-Butylamino-5-nitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2C=3C=C(C(=CC3C(C1)C2)NCCCC)[N+](=O)[O-] | C20H29N3O4
